US05026401
3rd step: Preparation of 3-nitro-4-(N,N-dimethylamino)-ethylaminophenol.
0.0766 mol (20 g) of 3-nitro-4-(β-bromoethyl)-aminophenol is heated for 20 minutes, at 60° C., in 60 ml of a 40% strength aqueous solution of dimethylamine. The reaction medium is poured into 300 ml of iced water and then neutralised with acetic acid. The expected product precipitates. It is filtered off, washed with water and recrystallised from ethanol. After drying in vacuo, it melts at 151° C.

reactant | 3-nitro-4-(β-bromoethyl)-aminophenol | 0.0766 mol, 20 g | [N+](=O)([O-])C=1C(=C(C=CC1CCBr)O)N | C8H9BrN2O3
reactant | dimethylamine | CNC | C2H7N
reactant | water | 300 ml | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 3-nitro-4-(N,N-dimethylamino)-ethylaminophenol | [N+](=O)([O-])C=1C(=C(C=CC1N(C)C)O)NCC | C10H15N3O3
